US05206418
A mixture of 1.45 g of methyl 4-{[6-(2-thienyl)sulfonylamino-5,6,7,8-tetrahydronaphthalene-2-yl]acetylamino}benzoate, 10 ml of methanol, 9 ml of a 2N aqueous sodium hydroxide solution and 4 ml of tetrahydrofuran is stirred at room temperature overnight. Methanol and tetrahydrofuran are distilled off, and the residual mixture is washed and acidified. The precipitated crystals are collected by filtration, washed, dired and recrystallized from a mixture of tetrahydrofuran and isopropyl ether to give 1.33 g of 4-{[6-(2-thienyl)sulfonylamino-5,6,7,8-tetrahydronaphthalene-2-yl]acetylamino}benzoic acid as colorless crystals.

reactant | methyl 4-{[6-(2-thienyl)sulfonylamino-5,6,7,8-tetrahydronaphthalene-2-yl]acetylamino}benzoate | 1.45 g | S1C(=CC=C1)S(=O)(=O)NC1CC=2C=CC(=CC2CC1)CC(=O)NC1=CC=C(C(=O)OC)C=C1 | C24H24N2O5S2
reactant | methanol | 10 ml | CO | CH4O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 4-{[6-(2-thienyl)sulfonylamino-5,6,7,8-tetrahydronaphthalene-2-yl]acetylamino}benzoic acid | 1.33 g, Yield 94% | S1C(=CC=C1)S(=O)(=O)NC1CC=2C=CC(=CC2CC1)CC(=O)NC1=CC=C(C(=O)O)C=C1 | C23H22N2O5S2
